US04668799
By using 2.0 g of 1-(2-benzimidazolyl)-1,3-butanedione and 2.5 g of 2-methylthio-1,3-dithiolylium perchlorate, the treatment was conducted in the same manner as in Example 1. The product was purified by silicagel chromatography, whereby 0.87 g (yield: 29%) of 2-(1,3-dithiol-2-ylidene)-1-(2-benzimidazolyl)-1,3-butanedione was obtained as crystals having a decomposition point of 254° C.

reactant | 1-(2-benzimidazolyl)-1,3-butanedione | 2.0 g | N1=C(NC2=C1C=CC=C2)C(CC(C)=O)=O | C11H10N2O2
reactant | 2-methylthio-1,3-dithiolylium perchlorate | 2.5 g | Cl(=O)(=O)(=O)[O-].CS[C+]1SC=CS1
product | 2-(1,3-dithiol-2-ylidene)-1-(2-benzimidazolyl)-1,3-butanedione | 0.87 g, yield: 29% | S1C(SC=C1)=C(C(=O)C=1NC2=C(N1)C=CC=C2)C(C)=O | C14H10N2O2S2
